US04308378
Step E. Preparation of 2-(3,5-Dichloro-4'-fluoro-2-[1,1'-biphenyl]yl)-3,4,4-trimethyl-2-oxazolium iodide
A solution of 2-(3,5-dichloro-4'-fluoro-2-[1,1'-biphenyl]yl)-4,4-dimethyl-2-oxazoline (4.6 g, 13.6 mmol) and methyl iodide (7 ml) in nitromethane (30 ml) was stirred on a steam bath for sixteen hours. The cooled reaction mixture was diluted with dry ether (200 ml) and, after cooling in an ice-bath, the crystalline product was collected to give 6 g (92%) of the title compound, mp 214°-216° C. (dec.). Crystallization from acetonitrile-ether (1:3, V:V) provided an analytical sample of the title compound, mp 218°-219.5° C. (dec.).

reactant | 2-(3,5-dichloro-4'-fluoro-2-[1,1'-biphenyl]yl)-4,4-dimethyl-2-oxazoline | 13.6 mmol, 4.6 g | ClC=1C(=C(C=C(C1)Cl)C1=CC=C(C=C1)F)C=1OCC(N1)(C)C | C17H14Cl2FNO
reactant | methyl iodide | 7 ml | CI | CH3I
solvent | nitromethane | 30 ml | [N+](=O)([O-])C | CH3NO2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-(3,5-Dichloro-4'-fluoro-2-[1,1'-biphenyl]yl)-3,4,4-trimethyl-2-oxazolium iodide | 6 g, 92% | [I-].ClC=1C(=C(C=C(C1)Cl)C1=CC=C(C=C1)F)[CH2+]1OCC(N1C)(C)C | InChI=1S/C18H19Cl2FNO.HI/c1-18(2)10-23-17(22(18)3)16-14(8-12(19)9-15(16)20)11-4-6-13(21)7-5-11;/h4-9H,10,17H2,1-3H3;1H/q+1;/p-1
